US05454975
1A 5-(4-pentyl-2,6-difluorophenyl)-2-chloropyrimidine
A mixture of 0.22 mol of 4-pentyl-2,6-difluorophenylboronic acid (prepared from 5-pentyl-1,3-difluorobenzene and trimethyl borate using n-butyllithium), 0.18 mol of 5-bromo-2-chloropyrimidine, 550 ml of THF, 75 ml of an aqueous buffer solution (pH=8), 230 ml of an aqueous disodium tetraborate decahydrate solution (4%), 200 ml of water and 2 g of tetrakis[triphenylphosphine]palladium (0) is heated at the boil for 20 hours. Customary work-up gives the product, which can be further processed without purification.

reactant | 4-pentyl-2,6-difluorophenylboronic acid | 0.22 mol | C(CCCC)C1=CC(=C(C(=C1)F)B(O)O)F | C11H15BF2O2
reactant | 5-bromo-2-chloropyrimidine | 0.18 mol | BrC=1C=NC(=NC1)Cl | C4H2BrClN2
reactant | THF | 550 ml | C1CCOC1 | C4H8O
reactant | disodium tetraborate decahydrate | 230 ml | O.O.O.O.O.O.O.O.O.O.B([O-])([O-])O.B(O)(O)O.B(O)(O)O.B(O)(O)O.[Na+].[Na+]
solvent | water | 200 ml | O | H2O
product | 5-(4-pentyl-2,6-difluorophenyl)-2-chloropyrimidine | C(CCCC)C1=CC(=C(C(=C1)F)C=1C=NC(=NC1)Cl)F | C15H15ClF2N2
